US04260619
The mixture of 0.08 g of 2-(N-carbobenzyloxy-2-methylaminopropyl)-5-pyridinol and 2.5 ml of 5 N hydrochloric acid is refluxed for 23 hours, cooled and extracted with diethyl ether. The extract is dryed and evaporated, to yield the 2-(2-methylaminopropyl)-5-pyridinol dihydrochloride, which is identical with that obtained according to Example 15.

reactant | 2-(N-carbobenzyloxy-2-methylaminopropyl)-5-pyridinol | 0.08 g | C(=O)(OCC1=CC=CC=C1)N(C(CC1=NC=C(C=C1)O)C)C | C17H20N2O3
reactant | hydrochloric acid | 5 N, 2.5 ml | Cl | ClH
product | 2-(2-methylaminopropyl)-5-pyridinol dihydrochloride | Cl.Cl.CNC(CC1=NC=C(C=C1)O)C | InChI=1S/C9H14N2O.2ClH/c1-7(10-2)5-8-3-4-9(12)6-11-8;;/h3-4,6-7,10,12H,5H2,1-2H3;2*1H
